US05932593
Synthesis of 1-(4-oxo-4-morpholinobutyryl)-4-(5H-dibenzo [a,d]cyclohepten-5-ylidene)piperidine
In 50 ml of dichloromethane, 4-(5H-dibenzo [a,d]cyclohepten-5-ylidene)piperidine (0.27 g, 1.0 mmol), succinic anhydride (0.12 g, 1.2 mmol), and triethylamine (0.17 ml, 1.2 mmol) were stirred at room temperature overnight. Morpholine (0.14 ml, 1.6 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.27 g, 1.4 mmol) were added and the mixture was further stirred at room temperature for 8 hours. The reaction mixture was washed with 30 ml of 1 N hydrochloric acid, 30 ml of a 1 N aqueous sodium hydroxide solution, and 30 ml of a saturated aqueous sodium chloride solution, dried over magnesium sulfate powder, and purified by silica gel chromatography to obtain the titled compound. Amount obtained: 0.44 g (1.0 mol); Yield: 100%

reactant | 4-(5H-dibenzo [a,d]cyclohepten-5-ylidene)piperidine | 1.0 mmol, 0.27 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCNCC3 | C20H19N
reactant | succinic anhydride | 1.2 mmol, 0.12 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | triethylamine | 1.2 mmol, 0.17 ml | C(C)N(CC)CC | C6H15N
reactant | Morpholine | 1.6 mmol, 0.14 ml | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.4 mmol, 0.27 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 1-(4-oxo-4-morpholinobutyryl)-4-(5H-dibenzo [a,d]cyclohepten-5-ylidene)piperidine | Yield: 100% | O=C(CCC(=O)N1CCC(CC1)=C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2)N2CCOCC2 | C28H30N2O3
